US08633319B2
Preparation of 7-[1-(1,1-dimethylethyl)-1H-pyrazol-4-yl]-N-{[(3S)-3-fluoro-3-piperidinyl]methyl}-1,6-naphthyridin-5-amine dihydrochloride (Hydrochloride salt of Example 2)
1,1-Dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate (1 wt), 1-(1,1-dimethylethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.76 wt), sodium bicarbonate (0.64 wt) and 1,1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride (0.00825 wt) are dissolved/suspended in 1,4-dioxane (8 vol) and water (2 vol). The mixture is heated to reflux and stirred for 3 h. The mixture is cooled to 20±3° C. to form a suspension. The solid is filtered off under vacuum. The filtrate is concentrated to 2 vol via vacuum distillation. Toluene (10 vol) is added. The solution is washed with water (5 vol) then stirred with Silicycle Si-Thiol derivatised silica gel (1 wt) at 60-65° C. for 2 h. The mixture is filtered at 60-65° C. and the cake washed with toluene (2 vol). The organic filtrate is then heated to 60-63° C. and 4M hydrogen chloride in 1,4-dioxane (2.9 vol) added over 30 min. The mixture is stirred at 60-63° C. for 5 h. The resulting slurry is cooled to 20±3° C. and aged for 15.5 h. The solid is filtered off under suction and washed with toluene (2×2 vol). The product is dried in vacuo at 40±3° C. to constant probe temperature.

reactant | 1,1-Dimethylethyl (3R)-3-{[(7-chloro-1,6-naphthyridin-5-yl)amino]methyl}-3-fluoro-1-piperidinecarboxylate | ClC1=NC(=C2C=CC=NC2=C1)NC[C@]1(CN(CCC1)C(=O)OC(C)(C)C)F | C19H24ClFN4O2
reactant | 1-(1,1-dimethylethyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC(C)(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | 1,1′-bis(di-tert-butylphosphino)ferrocene palladium dichloride | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | 7-[1-(1,1-dimethylethyl)-1H-pyrazol-4-yl]-N-{[(3S)-3-fluoro-3-piperidinyl]methyl}-1,6-naphthyridin-5-amine dihydrochloride | Cl.Cl.CC(C)(C)N1N=CC(=C1)C=1N=C(C=2C=CC=NC2C1)NC[C@]1(CNCCC1)F | InChI=1S/C21H27FN6.2ClH/c1-20(2,3)28-12-15(11-26-28)17-10-18-16(6-4-9-24-18)19(27-17)25-14-21(22)7-5-8-23-13-21;;/h4,6,9-12,23H,5,7-8,13-14H2,1-3H3,(H,25,27);2*1H/t21-;;/m0../s1
